*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ350ARA391MJA0G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ350ARA391MJA0G_20deg-C 1 2

C1 4 2 2.37e-04
C2 5 2 5.04e-05
C3 6 2 6.38e-05
R1 3 4 1.29e-02
R2 4 5 1.08e-01
R3 5 6 8.00e-01
L1 1 3 4.50e-09

.ENDS
*$
